US07799822B2
Under an N2 atmosphere at −78° C., 2,2,2-trifluoroacetic anhydride (5.6 g, 4.3 mL, 30.8 mmol) was added dropwise to a solution of 1-phenylpiperazine (5.0 g, 4.7 mL, 30.8 mmol), triethylamine (3.1 g, 4.3 mL, 30.8 mmol), and CH2Cl2 (50 mL). The reaction was allowed to warm to RT over a period of 30 minutes. After evaporating the solvents under reduced pressure, purification via silica gel chromatography using 7/3 hexanes/EtOAc gave 2,2,2-trifluoro-1-(4-phenylpiperazin-1-yl)ethanone as a white solid (6.1 g, 62%). 1H NMR (400 MHz, DMSO-d6) δ 7.27-7.23 (m, 2H), 6.98-6.96 (m, 2H), 6.86-6.82 (m, 1H), 3.74-3.69 (m, 4H), 3.24-3.21 (m, 4H). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=258.90; tR=3.06 min.

reactant | 2,2,2-trifluoroacetic anhydride | 30.8 mmol, 4.3 mL, 5.6 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1-phenylpiperazine | 30.8 mmol, 4.7 mL, 5.0 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | triethylamine | 30.8 mmol, 4.3 mL, 3.1 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trifluoro-1-(4-phenylpiperazin-1-yl)ethanone | 6.1 g, 62% | FC(C(=O)N1CCN(CC1)C1=CC=CC=C1)(F)F | C12H13F3N2O
